US07884210B2
{2-[3-Cyclopentylmethyl-3-(4-methanesulfonyl-phenyl)-ureido]-thiazol-4-yl}-acetic acid
The title compound was prepared via {2-[3-cyclopentylmethyl-3-(4-methanesulfonyl-phenyl)-ureido]-thiazol-4-yl}-acetic acid ethyl ester employing the coupling and hydrolysis protocol used for the synthesis of {2-[3-cyclopentylmethyl-3-(3,4-difluoro-phenyl)-ureido]-thiazol-4-yl}-acetic acid, using cyclopentylmethyl-(4-methanesulfonyl-phenyl)-amine and (2-amino-thiazol-4-yl)-acetic acid ethyl ester.

reactant | {2-[3-cyclopentylmethyl-3-(4-methanesulfonyl-phenyl)-ureido]-thiazol-4-yl}-acetic acid ethyl ester | C(C)OC(CC=1N=C(SC1)NC(=O)N(C1=CC=C(C=C1)S(=O)(=O)C)CC1CCCC1)=O | C21H27N3O5S2
reactant | {2-[3-cyclopentylmethyl-3-(3,4-difluoro-phenyl)-ureido]-thiazol-4-yl}-acetic acid | C1(CCCC1)CN(C(NC=1SC=C(N1)CC(=O)O)=O)C1=CC(=C(C=C1)F)F | C18H19F2N3O3S
reactant | cyclopentylmethyl-(4-methanesulfonyl-phenyl)-amine | C1(CCCC1)CNC1=CC=C(C=C1)S(=O)(=O)C | C13H19NO2S
reactant | (2-amino-thiazol-4-yl)-acetic acid ethyl ester | C(C)OC(CC=1N=C(SC1)N)=O | C7H10N2O2S
product | {2-[3-Cyclopentylmethyl-3-(4-methanesulfonyl-phenyl)-ureido]-thiazol-4-yl}-acetic acid | C1(CCCC1)CN(C(NC=1SC=C(N1)CC(=O)O)=O)C1=CC=C(C=C1)S(=O)(=O)C | C19H23N3O5S2
